US05821385
If 2,4-dichlorobenzoic acid is reacted with glycine analogously to DE-C 142 507 by initially introducing all the reactants into the reaction vessel and then carrying out the reaction while stirring and heating, by-products, in particular 4-chlorosalicylic acid, form - as a corresponding comparison experiment demonstrates - to a not inconsiderable extent. The statement made in DE-C 142 507, that the yield is almost the yield in theory when 2-chlorobenzoic acid is used, cannot be confirmed if 2,4-dichlorobenzoic acid is used as the starting substance.

reactant | 2,4-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | glycine | NCC(=O)O | C2H5NO2
solvent | 4-chlorosalicylic acid | ClC=1C=C(C(C(=O)O)=CC1)O | C7H5ClO3
product | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
